US07547710B2
A solution of tert-butyl [6-formyl-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methylcarbamate (300 mg, 0.694 mmol), (aminooxy)acetic acid hemihydrochloride (75.8 mg, 0.694 mmol) and triethylamine (70.3 mg, 0.694 mmol) in 90% ethanol (7.5 ml) was heated under reflux for 1.5 hrs. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give [({(1E)-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]methylene}amino)oxy]acetic acid (183 mg, yield 52%) as white crystals.

reactant | tert-butyl [6-formyl-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methylcarbamate | 0.694 mmol, 300 mg | C(=O)C=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C27H32N2O3
reactant | (aminooxy)acetic acid hemihydrochloride | 0.694 mmol, 75.8 mg | Cl.NOCC(=O)O.NOCC(=O)O
reactant | triethylamine | 0.694 mmol, 70.3 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 7.5 ml | C(C)O | C2H6O
product | [({(1E)-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]methylene}amino)oxy]acetic acid | 183 mg, yield 52% | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)\C=N\OCC(=O)O)CC(C)C | C29H35N3O5
